US09079866B2
H2SO4 (2 mL) was added to a solution of 2-(4-bromo-2-fluorobenzoyl)-hydrazinecarbothioamide (2.9 g, 10.0 mmol) in pentanoic acid (5 mL) and the resulting mixture was stirred at 110° Celsius for 2 hours. After cooling to rt, the reaction mixture was poured into ice-water (20 mL) and treated with NH3.H2O (15 mL). 5-(4-Bromo-2-fluorophenyl)-1,3,4-thiadiazol-2-amine was then isolated via vacuum filtration and air dried. MS (ESI): mass calcd. for C8H5BFN3OS, 272.94, m/z found, 274.1 [M+H]+.

reactant | H2SO4 | 2 mL | OS(=O)(=O)O | H2O4S
reactant | 2-(4-bromo-2-fluorobenzoyl)-hydrazinecarbothioamide | 10.0 mmol, 2.9 g | BrC1=CC(=C(C(=O)NNC(N)=S)C=C1)F | C8H7BrFN3OS
reactant | NH3.H2O | 15 mL | N.O
solvent | pentanoic acid | 5 mL | C(CCCC)(=O)O | C5H10O2
product | 5-(4-Bromo-2-fluorophenyl)-1,3,4-thiadiazol-2-amine | BrC1=CC(=C(C=C1)C1=NN=C(S1)N)F | C8H5BrFN3S
